US07553840B2
Cs2CO3 (325 mg, 1.0 mmol) was added to a solution of 2,2,2-trifluoro-1-(2-pyrimidin-5-yl-phenyl)-ethanol (72 mg, 0.28 mmol) in 10 ml of anhydrous THF. The mixture was stirred for 20 min, 2-amino-4,6-dichloro-pyrimidine (36.7 mg, 0.22 mmol) was added and then the reaction mixture was heated at 110° C. until the reaction was completed. After cooling to room temperature, 5 ml of water was added and ethyl acetate (20 ml) was used to extract the product. The organic layer was dried over sodium sulfate. The solvent was removed by rotovap to give 76 mg of crude 4-chloro-6-[2,2,2-trifluoro-1-(2-pyrimidin-5-yl-phenyl)-ethoxy]-pyrimidin-2-ylamine (yield: 92%).

reactant | Cs2CO3 | 1.0 mmol, 325 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,2,2-trifluoro-1-(2-pyrimidin-5-yl-phenyl)-ethanol | 0.28 mmol, 72 mg | FC(C(O)C1=C(C=CC=C1)C=1C=NC=NC1)(F)F | C12H9F3N2O
reactant | 2-amino-4,6-dichloro-pyrimidine | 0.22 mmol, 36.7 mg | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | water | 5 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-6-[2,2,2-trifluoro-1-(2-pyrimidin-5-yl-phenyl)-ethoxy]-pyrimidin-2-ylamine | 76 mg, yield: 92% | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C=1C=NC=NC1)N | C16H11ClF3N5O
